US07758932B2
Synthesis of [16-(3,6,7,10,11-pentakishexyloxytriphenylene-2-yloxy)-hexadecyl]-phosphonic acid
In 15 mL of methylene chloride, 2.0 g (1.8 mmol) of [16-(3,6,7,10,11-pentakishexyloxytriphenylene-2-yloxy)-hexadecyl]-phosphonic acid diethylester was dissolved, and 1.2 mL of trimethylsilylbromide was added to the solution under argon. Then, the solution was stirred at ambient temperature. After 27 hours, the solvent and excess trimethylsilylbromide were evaporated, and the residue was dissolved in 100 mL of ethanol. The solution was stirred at ambient temperature for 48 hours, and then the solvent was evaporated. As a result, 1.9 g of a white solid was obtained.

reactant | [16-(3,6,7,10,11-pentakishexyloxytriphenylene-2-yloxy)-hexadecyl]-phosphonic acid diethylester | 1.8 mmol, 2.0 g | C(C)OP(OCC)(=O)CCCCCCCCCCCCCCCCOC1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1OCCCCCC)OCCCCCC)OCCCCCC)OCCCCCC)OCCCCCC | C68H113O9P
reactant | trimethylsilylbromide | 1.2 mL | C[Si](C)(C)Br | C3H9BrSi
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | [16-(3,6,7,10,11-pentakishexyloxytriphenylene-2-yloxy)-hexadecyl]-phosphonic acid | 1.9 g | C(CCCCC)OC=1C(=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C1)OCCCCCC)OCCCCCC)OCCCCCC)OCCCCCC)OCCCCCCCCCCCCCCCCP(O)(O)=O | C64H105O9P
